US04902796
To a mixture containing 2.0 g of methyl 5-iodo-1,2-dihydro-3-pyridinecarboxylate, 1.6 g of diethylaniline, 1.64 g of benzyltriethylammonium chloride and 3.6 ml of distilled phosphorus oxychloride in 100 ml of dry acetonitrile are added 15 drops of water. The mixture is heated under reflux for 18 hours. After cooling the reaction mixture to room temperature, the solvent is removed under reduced pressure and the residue taken up in methylene chloride and extracted with water. The organic solution is dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on a column of flash silica gel using methylene chloride as the eluent. Evaporation of the eluent yields a pale yellowish solid which is recrystallized from aqueous ethanol to give 1.1 g (52%) of methyl 2-chloro-5-iodo-3-pyridinecarboxylate as a white solid: m.p. 73°-73.5° C.; NMR (80 MHz, CDCl3) delta 3.96 (s, 3H), 8.43 (d, 1H, J= 2.3 Hz), 8.71 (d, 1H, J=2.3 Hz).

reactant | methyl 5-iodo-1,2-dihydro-3-pyridinecarboxylate | 2.0 g | IC=1C=C(CNC1)C(=O)OC | C7H8INO2
reactant | diethylaniline | 1.6 g | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | phosphorus oxychloride | 3.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | benzyltriethylammonium chloride | 1.64 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | water | 15 drops | O | H2O
product | methyl 2-chloro-5-iodo-3-pyridinecarboxylate | 1.1 g, 52% | ClC1=NC=C(C=C1C(=O)OC)I | C7H5ClINO2
